US07709483B2
(f) 4-Chloro-7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde
4-Chloro-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one (0.18 g, 0.64 mmol) was dissolved in a 2:1 solution of 1,4-dioxane/water (6 mL) and cooled to 0° C. NalO4 (0.314 g, 1.47 mmol) and catalytic OsO4 (1 mL, 4% aq. solution) were added and the solution was then stirred at ambient temperature for 16 h. The reaction solution was concentrated under vacuum, diluted with water, and extracted with 10% MeOH/DCM (4×). The organic layers were combined, dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was then purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired compound as an off-white solid (0.05 g, 44%).

reactant | 4-Chloro-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 0.64 mmol, 0.18 g | ClC=1C2=C(N=C(N1)\C=C\C1=CC=CC=C1)NC(CC2)=O | C15H12ClN3O
reactant | 1,4-dioxane water | 6 mL | O1CCOCC1.O
catalyst | OsO4 | 1 mL | O=[Os](=O)(=O)=O
product | 4-Chloro-7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde | 0.05 g, 44% | ClC=1C2=C(N=C(N1)C=O)NC(CC2)=O | C8H6ClN3O2
